US08334235B2
3-(1-Chlorocyclopropyl)-5-{(4-methylphenyl)sulphonyl}-1,2,4-thiadiazole
66.2 g (372 mmol) of 5-(1-chlorocyclopropyl)-1,3,4-oxathiazol-2-one and 70.9 g (391 mmol) of tosyl cyanide are stirred in 125 ml of 1,2-dichlorobenzene at 160° C. for 1 h. Subsequently, the reaction mixture is cooled and treated with pentane, and the precipitate is filtered off and dried under vacuum. 100.0 g of product are obtained (99.9% purity, 85.2% yield, log P (pH 2.3)=3.67).

reactant | 5-(1-chlorocyclopropyl)-1,3,4-oxathiazol-2-one | 372 mmol, 66.2 g | ClC1(CC1)C1=NSC(O1)=O | C5H4ClNO2S
reactant | tosyl cyanide | 391 mmol, 70.9 g | S(=O)(=O)(C1=CC=C(C)C=C1)C#N | C8H7NO2S
reactant | pentane | CCCCC | C5H12
solvent | 1,2-dichlorobenzene | 125 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 3-(1-Chlorocyclopropyl)-5-{(4-methylphenyl)sulphonyl}-1,2,4-thiadiazole | 100.0 g, 85.2% yield | ClC1(CC1)C1=NSC(=N1)S(=O)(=O)C1=CC=C(C=C1)C | C12H11ClN2O2S2
